US04798620
A mixture of 4-ethoxycarbonylmethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one (1.27 g), ethanol (20 ml) and 28% ammonia water (10 g) was mixed at room temperature for 2 hours, and refluxed for 3 hours. After the solvent was concentrated, it was mixed with water, and filtered. Resulting product was washed with water and ethanol in that order, and recrystallized from methylisobutyl ketone to give the desired 4-carbamoylmethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one (0.45 g). mp. 216.5°-219° C.

reactant | 4-ethoxycarbonylmethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one | 1.27 g | C(C)OC(=O)CN1C(COC2=C1C=CC(=C2)F)=O | C12H12FNO4
reactant | ammonia water | 10 g | O.N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4-carbamoylmethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one | 0.45 g | C(N)(=O)CN1C(COC2=C1C=CC(=C2)F)=O | C10H9FN2O3
